US08729530B2
Next, a mixed solution of 1.8 g of 1,6-bis(4-fluorophenyl)pyrene, 835 mg of N-bromosuccinimide and 60 ml of dimethylformamide was stirred under a nitrogen gas flow at 80° C. for 5 hours. After cooling the solution to room temperature, the resultant precipitate was filtered. The solid was washed with 30 ml of methanol and then vacuum-dried to obtain 951 mg of 3-bromo-1,6-bis(4-fluorophenyl)pyrene.

reactant | 1,6-bis(4-fluorophenyl)pyrene | 1.8 g | FC1=CC=C(C=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)F | C28H16F2
reactant | N-bromosuccinimide | 835 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-bromo-1,6-bis(4-fluorophenyl)pyrene | 951 mg | BrC=1C=C(C2=CC=C3C=CC(=C4C=CC1C2=C43)C4=CC=C(C=C4)F)C4=CC=C(C=C4)F | C28H15BrF2
